US03952017
26 g. of 1-Methyl-5H-dibenzo[a,d]cyclohepten-5-one are dissolved in 200 ml. of dioxane, a solution of 9 g. of sodium borohydride in 35 ml. of water is added thereto and the mixture is stirred at room temperature for 4 hours. The mixture is subsequently evaporated under reduced pressure. The residue is shaken with ether and water. The ethereal phase is washed with water, dried over sodium sulfate, filtered and evaporated. The 5-hydroxy-1-methyl-5H-dibenzo[a,d]cycloheptene obtained is recrystallized from petroleum ether and melts at 114°-116°C.

reactant | 1-Methyl-5H-dibenzo[a,d]cyclohepten-5-one | CC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C16H12O
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 5-hydroxy-1-methyl-5H-dibenzo[a,d]cycloheptene | OC1C2=C(C=CC3=C1C=CC=C3C)C=CC=C2 | C16H14O
